US05910508
(d) Preparation of methyl (Z)-3-{3-[5-(tert-butyldimethylsilyloxy)-pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-2-butenoate
A mixture of tetrakis(triphenyl-phosphine)palladium (155 mg), 3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaleneboronic acid (300 mg, 0.67 mmol), a 2M solution of potassium carbonate in water (0.67 ml) and methyl (Z)-3-iodo-2-butenoate (Ma, S. & Lu, X.; J. Chem. Soc. Chem. Com., pp. 1643-1644 (1990)) (182 mg) in dimethoxyethane (DME) (10 ml) was heated to reflux for 24 h. The solution was poured into a mixture of water and ethyl acetate. The organic phase was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C. The desired compound was purified by flash chromatography on a silica column.

reactant | 3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaleneboronic acid | 0.67 mmol, 300 mg | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C25H45BO4Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methyl (Z)-3-iodo-2-butenoate | I\C(=C/C(=O)OC)\C | C5H7IO2
solvent | water | 0.67 ml | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | methyl (Z)-3-{3-[5-(tert-butyldimethylsilyloxy)-pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-2-butenoate | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)\C(=C/C(=O)OC)\C | C30H50O4Si
